* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\Draft4.asc
XU1 N001 N002 NC_01 MEM_KNOWM Ron=50k Roff=150k Voff=1 Von=1 TAU=150
R1 N002 0 150K
V1 N001 0 10
.tran 600
.lib memristor_with_state.sub
.backanno
.end
